US07932262B2
Step 1. (4-Bromo-2-nitrophenyl)methanol
To a 0.5M suspension of 4-bromo-2-nitrobenzoic acid in THF in an ice bath was slowly added borane (1.0M/THF, 4 eq). The reaction mixture was stirred at ambient temperature for 48 h. LCMS showed the reaction was complete. The mixture was recooled to 0° C. and quenched with methanol and concentrated to remove solvent. The residue was taken into ethyl acetate and organic phase was washed with water, saturated sodium bicarbonate, brine, dried over sodium sulfate and concentrated to give yellow solid in 95% yield.

reactant | 4-bromo-2-nitrobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4BrNO4
reactant | borane | 1.0M, 4 eq | B | BH3
solvent | THF | C1CCOC1 | C4H8O
product | (4-Bromo-2-nitrophenyl)methanol | 95% yield | BrC1=CC(=C(C=C1)CO)[N+](=O)[O-] | C7H6BrNO3
